US08791267B2
To a stirred suspension of (4-amino-phenyl)-(3′-chloro-2-fluoro-6-methoxy-biphenyl-3-yl)-methanone hydrochloride synthesized above (0.4 g, 1.02 mmol) and sodium azide (0.2 g, 3.06 mmol) in glacial acetic acid (10 mL) was added trimethylorthoformate (0.32 g, 3.06 mmol). The reaction was stirred at room temperature for 3 h, diluted with cold water (60 mL), than basified with ammonium hydroxide solution (28%). Extracted with dichloromethane (2×40 mL), the combined dichloromethane solution was washed with brine (40 ml), dried with Na2SO4, filtered, and concentrated to afford 0.38 g (90%) of (3′-chloro-2-fluoro-6-methoxy-biphenyl-3-yl)-(4-tetrazol-1-yl-phenyl)-methanone as light yellow solid.

reactant | (4-amino-phenyl)-(3′-chloro-2-fluoro-6-methoxy-biphenyl-3-yl)-methanone hydrochloride | Cl.NC1=CC=C(C=C1)C(=O)C=1C(=C(C(=CC1)OC)C1=CC(=CC=C1)Cl)F
reactant | sodium azide | 3.06 mmol, 0.2 g | [N-]=[N+]=[N-].[Na+]
reactant | trimethylorthoformate | 3.06 mmol, 0.32 g | COC(OC)OC | C4H10O3
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | water | 60 mL | O | H2O
product | (3′-chloro-2-fluoro-6-methoxy-biphenyl-3-yl)-(4-tetrazol-1-yl-phenyl)-methanone | 0.38 g, 90% | ClC=1C=C(C=CC1)C1=C(C(=CC=C1OC)C(=O)C1=CC=C(C=C1)N1N=NN=C1)F | C21H14ClFN4O2
